US07994203B2
2-Bromo-1-(2,6-dimethoxy-pyridin-3-yl)-propan-1-one
This compound is prepared analogously to 2-bromo-1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-one (Intermediate DA) by replacing 5-bromo-2-methoxy-4-methyl-pyridine with the appropriate starting compound. MS: m/z 274 [M+H]+

reactant | 2-bromo-1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-one | BrC(C(=O)C=1C=NC(=CC1C)OC)C | C10H12BrNO2
reactant | 5-bromo-2-methoxy-4-methyl-pyridine | BrC=1C(=CC(=NC1)OC)C | C7H8BrNO
product | 2-Bromo-1-(2,6-dimethoxy-pyridin-3-yl)-propan-1-one | BrC(C(=O)C=1C(=NC(=CC1)OC)OC)C | C10H12BrNO3
